US06403578B1
a) methyl 4-(phthalimidomethyl)-3-chlorobenzoate
A mixture of methyl 4-bromomethyl-3-chlorobenzoate 10 g, 38 mmol) and potassium phthalimide (9.85 g, 53 mmol) in dimethylformamide (65 mL) was stirred and heated to 85° C. for 2 h. The hot mixture was poured into ice water and the resulting solid was filtered, washed sequentially with water, ethanol and a small amount of ether and dried to give the title compound.

reactant | methyl 4-bromomethyl-3-chlorobenzoate | 38 mmol, 10 g | BrCC1=C(C=C(C(=O)OC)C=C1)Cl | C9H8BrClO2
reactant | potassium phthalimide | 53 mmol, 9.85 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 65 mL | CN(C=O)C | C3H7NO
product | methyl 4-(phthalimidomethyl)-3-chlorobenzoate | C1(C=2C(C(N1CC1=C(C=C(C(=O)OC)C=C1)Cl)=O)=CC=CC2)=O | C17H12ClNO4
